US07994185B2
2,6-Difluoro-N-{3-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
A neat mixture of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.30 mmol) and 2-aminoethyl-methyl-sulfone (0.20 g, 1.62 mmol) was heated at 60° C. overnight. The reaction mixture was diluted with 1M HCl and extracted with DCM twice. The organic layer was dried over MgSO4 and evaporated onto silica gel. Purification by ISCO chromatography (0 to 40% 1:9 MeOH:EtOAC in DCM) afforded the title compound (74 mg, 40.0% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.04 (s, 1H), 8.06 (d, J=5.1 Hz, 1H), 7.65-7.75 (m, 1H), 7.46 (t, J=5.7 Hz, 1H), 7.35 (t, J=7.9 Hz, 1H), 7.16-7.30 (m, 5H), 6.09 (br. s., 1H), 3.60-3.73 (m, 2H), 3.34-3.38 (m, 2H), 3.25-3.30 (m, 1H), 3.02 (s, 3H), 1.36 (d, J=6.9 Hz, 6H). MS (ESI): 594.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.30 mmol, 0.15 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H17ClF2N4O2S2
reactant | 2-aminoethyl-methyl-sulfone | 1.62 mmol, 0.20 g | NCCS(=O)(=O)C | C3H9NO2S
solvent | HCl | 1M | Cl | ClH
product | 2,6-Difluoro-N-{3-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | 74 mg, 40.0% yield | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=CC(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCS(=O)(=O)C)C(C)C | C25H25F2N5O4S3
